US07625914B2
A solution of 9 g (40 mmol) of ethyl 5-bromonicotinate in 25 ml of methanol is added dropwise, at room temperature, to a suspension of 14.8 g (400 mmol) of sodium borohydride in 75 ml of methanol. After addition, the reaction medium is refluxed for 2 hours. The reaction medium is evaporated to dryness, taken up in aqueous sodium hydroxide solution to pH 9, and extracted with ethyl acetate. The organic phase is dried over magnesium sulfate, filtered and evaporated under vacuum. 3.7 g (50%) of (5-bromopyrid-3-yl)methanol are obtained.

reactant | ethyl 5-bromonicotinate | 40 mmol, 9 g | BrC=1C=NC=C(C(=O)OCC)C1 | C8H8BrNO2
reactant | sodium borohydride | 400 mmol, 14.8 g | [BH4-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 75 ml | CO | CH4O
product | (5-bromopyrid-3-yl)methanol | 3.7 g, 50% | BrC=1C=C(C=NC1)CO | C6H6BrNO
